US05057531
2.1 g of sodium borohydride, dissolved in a little 10% strength sodium hydroxide solution, are added to a solution of 47.3 g of Z-2-(2,2-dimethylpropyl)-3-(4-chlorophenyl)-propenal. After the reaction mixture has been stirred for 18 hours at room temperature, 200 ml of water are added to the solution and the resulting emulsion is extracted by shaking with methylene chloride. The organic phase isolated is then dried over sodium sulfate and evaporated down. 45.8 g (96%) of Z-1-(4-chlorophenyl)-2-hydroxymethyl-4,4-dimethylpent-1-ene are obtained.

reactant | sodium borohydride | 2.1 g | [BH4-].[Na+]
reactant | Z-2-(2,2-dimethylpropyl)-3-(4-chlorophenyl)-propenal | 47.3 g | CC(C/C(/C=O)=C/C1=CC=C(C=C1)Cl)(C)C | C14H17ClO
reactant | water | 200 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | Z-1-(4-chlorophenyl)-2-hydroxymethyl-4,4-dimethylpent-1-ene | 45.8 g, 96% | ClC1=CC=C(C=C1)\C=C(\CC(C)(C)C)/CO | C14H19ClO
